US04644071
Preparation 5 1-(5-bromopentoxy)-2-propylbenzene
A mixture of 90 g (0.66 mole) of 2-propylphenol, 300 g (1.30 mole) of 1,5-dibromopentane, 120 g of anhydrous potassium carbonate, and 9 g of sodium iodide in 1.2 l of methyl ethyl ketone was stirred at reflux for two days. After cooling, the mixture was filtered to remove insolubles and the filtrate was concentrated in vacuo. The residue was distilled under vacuum to give 120 g of the title compound as an analytically pure oil, b.p. 123°-125° at 0.1 mm Hg.

reactant | 2-propylphenol | 0.66 mole, 90 g | C(CC)C1=C(C=CC=C1)O | C9H12O
reactant | 1,5-dibromopentane | 1.30 mole, 300 g | BrCCCCCBr | C5H10Br2
reactant | potassium carbonate | 120 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 9 g | [I-].[Na+]
solvent | methyl ethyl ketone | 1.2 l | C(C)C(=O)C | C4H8O
product | 1-(5-bromopentoxy)-2-propylbenzene | 120 g | BrCCCCCOC1=C(C=CC=C1)CCC | C14H21BrO
